US08466155B2
d) N-((1R,2R)-2-hydroxy-indan-1-yl)-N-methyl-methanesulphonamide
N-[(1R,2R)-2-(tert-butyl-dimethyl-silanyloxy)-indan-1-yl]-N-methyl-methanesulphonamide (0.53 g) is dissolved in 5 mL THF, combined with Bu4NF (5 mL of a 1 N solution in THF) and stirred for 2 h at RT. After the reaction is complete the reaction mixture is freed from the solvent. After the addition of CH2Cl2 it is extracted with HCl (aqu., 1 N). The organic phase is dried on MgSO4. After elimination of the solvent the mixture is purified by normal phase chromatography (CH2Cl2, MeOH). The product-containing fractions are combined and freed from the solvent using the rotary evaporator.

reactant | N-[(1R,2R)-2-(tert-butyl-dimethyl-silanyloxy)-indan-1-yl]-N-methyl-methanesulphonamide | 0.53 g | C(C)(C)(C)[Si](O[C@H]1[C@@H](C2=CC=CC=C2C1)N(S(=O)(=O)C)C)(C)C | C17H29NO3SSi
reactant | Bu4NF | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-((1R,2R)-2-hydroxy-indan-1-yl)-N-methyl-methanesulphonamide | O[C@H]1[C@@H](C2=CC=CC=C2C1)N(S(=O)(=O)C)C | C11H15NO3S
